data/mechanism_extracts/ACSCatal/10.1021_acscatal.3c02072_sup_1.json
{"doi": "10.1021_acscatal.3c02072_sup_1", "journal": "ACSCatal", "is_review": false, "rxn_class_summary": "Cobalt-catalyzed electrochemical C-H activation/annulation of 8-aminoquinoline benzamides with allenylphosphine oxides to form isoquinolinone-type products", "mechanism_family": ["electrocatalysis_inner_sphere"], "electrochemical_role": "Anodic oxidation of Co(II) to Co(III) at the graphite felt anode; cathodic H2 evolution at Pt; the high-valent Co species mediates C-H metalation/migratory insertion/C-N bond formation", "key_intermediates": [{"name": "Cobalt(III) complex bearing chiral oxazoline ligand L3, benzamide-derived cyclometalated aryl, and 4-methoxypyridine coordinated (compound 45)", "smiles": null, "role": "reactive"}, {"name": "Co(II) precatalyst Co(OAc)2·4H2O ligated by L3", "smiles": null, "role": "resting_state"}, {"name": "Cyclometalated Co(III)-aryl after concerted metalation-deprotonation (CMD) of benzamide C-H", "smiles": null, "role": "transient"}], "electron_flow": "The GF anode oxidizes the Co(II)/benzamide complex to a Co(III) species, which undergoes carboxylate-assisted (NaOPiv) C-H metalation of the benzamide; migratory insertion of the allene followed by C-N reductive elimination yields the product, while protons are reduced to H2 at the Pt cathode.", "rate_determining_step": "C-H metalation is partially rate-influencing but not fully rate-limiting (small KIE ~1.2 suggests C-H cleavage is not solely rate-determining)", "probe_reagents": [{"name": "[D5]-benzamide 1 (intermolecular competition with non-deuterated 1)", "smiles": null, "purpose": "KIE", "observation": "PH/PD ≈ 1.2 from 1H NMR of product, indicating C-H cleavage is not the rate-determining step"}, {"name": "4-methoxypyridine (as donor ligand to trap Co(III) intermediate)", "smiles": "COc1ccncc1", "purpose": "intermediate_trap", "observation": "Stoichiometric electrolysis (1.0 equiv Co, 1.0 equiv L3, 1.0 mA, 12 h) furnished isolable Co(III) complex 45 in 12% yield, supporting a Co(III) cyclometalated intermediate"}], "evidence_types_used": ["KIE", "H/D_labeling", "stoichiometric_intermediate", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Only two mechanistic probes shown on this page (KIE and isolation of a Co(III) intermediate via stoichiometric electrolysis). The small KIE (~1.2) argues against C-H activation being rate-determining; the isolated Co(III) complex 45 supports an inner-sphere electrocatalytic Co(II)/Co(III) cycle with carboxylate-assisted CMD."}
